US04601853
200 g (1.5 moles) of powdered aluminium chloride and 40 g (684 mmol) of sodium chloride are heated together at 140°-150° C. After about 1.5 hours, 40 g (136 mmol) of 2-(4-fluorobenzoyl)-naphthalene-3-carboxylic acid are added to the melt. The dark red mixture is stirred at 140°-150° C. for one hour. Hydrolysis is then carried out at about 100° C. by slowly adding ice-water. The precipitate is filtered off and stirred with 10% sodium carbonate solution. It is then washed neutral with water and dried. The resulting product is sublimed at 230° C. 13.1 g (70% of theory) of 2-fluoro-5,12-naphthacenequinone are obtained.

reactant | aluminium chloride | 1.5 moles, 200 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | 684 mmol, 40 g | [Cl-].[Na+]
reactant | 2-(4-fluorobenzoyl)-naphthalene-3-carboxylic acid | 136 mmol, 40 g | FC1=CC=C(C(=O)C2=CC3=CC=CC=C3C=C2C(=O)O)C=C1 | C18H11FO3
product | 2-fluoro-5,12-naphthacenequinone | 13.1 g, 70% | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
